US04436748
To 9.5 g of ethyl[ [6,7-dichloro-2-(1-hydroxypropyl)benzo[b]thien-5-yl]oxy]acetate in 210 ml of ethanol is added 180 ml of 6 N sodium hydroxide solution and the mixture is stirred at 100° for 30 mins. The cooled mixture is concentrated in vacuo to give a white slurry which is diluted with 400 ml of ice water and 300 ml of ethyl ether. With stirring and efficient cooling, the mixture is acidified with 6 N hydrochloric acid. The acidic mixture is extracted with ethyl ether. The ether extracts are washed, dried over anhydrous magnesium sulfate and evaporated to dryness. Recrystallization of the residue from ethyl ether and hexane gives 7.5 g of [[6,7-dichloro-2-(1-hydroxypropyl)benzo[b]thien-5-yl]oxy]acetic acid, mp 156°-158°.

reactant | ethyl[ [6,7-dichloro-2-(1-hydroxypropyl)benzo[b]thien-5-yl]oxy]acetate | 9.5 g | C(C)OC(COC1=CC2=C(SC(=C2)C(CC)O)C(=C1Cl)Cl)=O | C15H16Cl2O4S
reactant | sodium hydroxide | 6 N, 180 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ethanol | 210 ml | C(C)O | C2H6O
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
product | [[6,7-dichloro-2-(1-hydroxypropyl)benzo[b]thien-5-yl]oxy]acetic acid | 7.5 g | ClC=1C(=CC2=C(SC(=C2)C(CC)O)C1Cl)OCC(=O)O | C13H12Cl2O4S
